US04297516
4-hydroxy-4-methyl-7-oxa-1-octyne
To a stirred solution of propargylmagnesium bromide in 35 ml. of ether, prepared from 7.65 g. (0.3 moles) of magnesium, 170 mg. of mercuric chloride and 33.6 g. (0.28 moles) of propargyl bromide, is added dropwise under argon atmosphere a solution of 25 g. (0.245 moles) of 4-methoxy-2-butanone [L. R. Fedor, J. Am. Chem. Soc., 91:4, 908 (1969)] in 20 ml. of ether at a rate to maintain gentle refluxing. The resulting mixture is stirred at ambient temperature for an additional 30 minutes then quenched at 5° C. by the addition of 140 ml. of saturated ammonium chloride solution. After filtration the ether phase is separated; the aqueous phase is extracted twice with additional ether. The combined ether extracts are washed with saturated sodium chloride solution, dried with anhydrous magnesium sulfate and taken to dryness in vacuo. Distillation of the residual oil provided 13.7 g. (40%) of product; b.p. 84°-85° C. (13 mm.).

reactant | propargylmagnesium bromide | C(C#C)[Mg]Br
reactant | magnesium | 0.3 moles | [Mg] | Mg
reactant | propargyl bromide | 0.28 moles | C(C#C)Br | C3H3Br
reactant | 4-methoxy-2-butanone | 0.245 moles | COCCC(C)=O | C5H10O2
solvent | ether | CCOCC | C4H10O
product | 4-hydroxy-4-methyl-7-oxa-1-octyne | OC(CC#C)(CCOC)C | C8H14O2
